### PR TITLE
[Merged by Bors] - feat: an `RCLike` field is a real-inner product space of dim at most two

### PR DESCRIPTION
**Pull request by YaelDillies**
Co-authored-by: Heather Macbeth

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 1]
```diff
@@ -905,6 +905,24 @@ protected theorem Complex.inner (w z : ℂ) : ⟪w, z⟫_ℝ = (conj w * z).re :
 
 end RCLikeToReal
 
+/-- An `RCLike` field is a real inner product space. This is not registered as an instance since it
+creates problems with the case `𝕜 = ℝ`, but in can be used in a proof to obtain a real inner product
```
Comment (bryangingechen) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:909]:
```suggestion
creates problems with the case `𝕜 = ℝ`, but it can be used in a proof to obtain a real inner product
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 2]
```diff
@@ -905,6 +905,24 @@ protected theorem Complex.inner (w z : ℂ) : ⟪w, z⟫_ℝ = (conj w * z).re :
 
 end RCLikeToReal
 
+/-- An `RCLike` field is a real inner product space. This is not registered as an instance since it
+creates problems with the case `𝕜 = ℝ`, but it can be used in a proof to obtain a real inner product
+space structure on an `RCLike` field.
+
+This is different from the inner product space structure obtained from
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:912]: Definitionally or also propositionally?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 3]
```diff
@@ -905,6 +905,24 @@ protected theorem Complex.inner (w z : ℂ) : ⟪w, z⟫_ℝ = (conj w * z).re :
...
+`InnerProductSpace.rclikeToReal 𝕜 𝕜` because of a diamond in the `ℝ`-normed space instances:
+`NormedSpace.restrictScalars ℝ 𝕜 𝕜` ≠ `NormedAlgebra.toNormedSpace' (𝕜 := ℝ) (𝕜' := 𝕜)`. -/
+noncomputable def RCLike.innerProductSpaceReal : InnerProductSpace ℝ 𝕜 where
+  __ := Inner.rclikeToReal 𝕜 𝕜
+  __ := NormedAlgebra.toNormedSpace' (𝕜 := ℝ) (𝕜' := 𝕜)
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:917]: Maybe neater as
```suggestion
  __ : NormedSpace ℝ 𝕜 := inferInstance
```

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 4]
```diff
@@ -18,6 +18,21 @@ theorem ofReal_eval (p : ℝ[X]) (x : ℝ) : (↑(p.eval x) : K) = aeval (↑x)
...
 
+variable (K) in
+lemma RCLike.span_one_I : Submodule.span ℝ (M := K) ({1, I} : Set K) = ⊤ := by
+  suffices ∀ x : K, ∃ a b : ℝ, a • 1 + b • I = x by
+    simpa [Submodule.eq_top_iff', Submodule.mem_span_pair]
+  exact fun x ↦ ⟨re x, im x, by simp [real_smul_eq_coe_mul]⟩
+
+open scoped Finset
+variable (K) in
+lemma RCLike.finrank_le_two : Module.finrank ℝ K ≤ 2 :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/RCLike/Lemmas.lean:29]: Can you add the rank version too?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean:917]: Maybe, but that would make the docstring harder to understand

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean:912]: Here's a proof that they are propeq:
```
attribute [ext] NormedSpace

example : NormedSpace.restrictScalars ℝ 𝕜 𝕜 = NormedAlgebra.toNormedSpace' (𝕜 := ℝ) (𝕜' := 𝕜) := by
  ext r k
  change algebraMap ℝ 𝕜 r * k = r • k
  exact (Algebra.smul_def ..).symm
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 5]
```diff
@@ -905,6 +905,27 @@ protected theorem Complex.inner (w z : ℂ) : ⟪w, z⟫_ℝ = (conj w * z).re :
...
 
+/-- An `RCLike` field is a real inner product space. This is not registered as an instance since it
+creates problems with the case `𝕜 = ℝ`, but it can be used in a proof to obtain a real inner product
+space structure on an `RCLike` field.
+
+This is definitionally different from the inner product space structure obtained from
+`InnerProductSpace.rclikeToReal 𝕜 𝕜` because of a non-defeq diamond in the `ℝ`-normed space
+instances:
+`NormedSpace.restrictScalars ℝ 𝕜 𝕜` isn't defeq to
+`NormedAlgebra.toNormedSpace' (𝕜 := ℝ) (𝕜' := 𝕜)` because the former sets
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:916]: I think these primed instances are a relic from the no-structure-eta situation in Lean 3. Removing them entirely is out of scope for this PR, but can you use the unprimed one here?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 6]
```diff
@@ -905,6 +905,27 @@ protected theorem Complex.inner (w z : ℂ) : ⟪w, z⟫_ℝ = (conj w * z).re :
...
+`(r : ℝ) • (k : 𝕜) := algebraMap ℝ 𝕜 r * k ` while the latter inherits `r • k` from `RCLike 𝕜`. -/
+noncomputable def RCLike.innerProductSpaceReal : InnerProductSpace ℝ 𝕜 where
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:918]: Is this defeq to the obvious instance when `𝕜 = ℝ` or \C ? If so, can you add an `example` to prove it?

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean:918]: Both instances are fine:
```
example : (inferInstanceAs <| InnerProductSpace ℝ ℝ) = RCLike.innerProductSpaceReal := rfl
example : (inferInstanceAs <| InnerProductSpace ℝ ℂ) = RCLike.innerProductSpaceReal := rfl
```
I'd argue then that this:
* should be registered as an `instance`
* needs no comment; the diamond is entirely the fault of the other `InnerProductSpace` declaration, not of this one, and so the comment belongs there.

Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: There's already a comment on the other `InnerProductSpace` declaration. Do you want me to change it to incorporate some of the comment I was adding to this `InnerProductSpace` declaration?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean]: Actually, I could just remove the line entirely

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 7]
```diff
@@ -860,13 +860,13 @@ variable [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
...
+since `𝕜` does not appear in the return type `Inner ℝ E`. -/
 def Inner.rclikeToReal : Inner ℝ E where inner x y := re ⟪x, y⟫
 
 /-- A general inner product space structure implies a real inner product structure. This is not
-registered as an instance since it creates problems with the case `𝕜 = ℝ`, but in can be used in a
-proof to obtain a real inner product space structure from a given `𝕜`-inner product space
-structure. -/
+registered as an instance since `𝕜` does not appear in the return type `InnerProductSpace ℝ E`, but
+it can be used in a proof to obtain a real inner product space structure from a given `𝕜`-inner
+product space structure. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:869]: Perhaps worth adding something along the lines of

> Note this is likely to create instance diamonds, as it builds upon the diamond-prone `NormedSpace.restrictScalars`

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/Basic.lean:869]: Probably this should also be an `abbrev` to match.

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 8]
```diff
@@ -905,6 +905,17 @@ protected theorem Complex.inner (w z : ℂ) : ⟪w, z⟫_ℝ = (conj w * z).re :
 
 end RCLikeToReal
 
+/-- An `RCLike` field is a real inner product space. -/
+noncomputable instance RCLike.toInnerProductSpaceReal : InnerProductSpace ℝ 𝕜 where
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:909]: Could you add the two `example`s I commented with earlier that prove this creates no diamonds?

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 9]
```diff
@@ -18,6 +19,28 @@ theorem ofReal_eval (p : ℝ[X]) (x : ℝ) : (↑(p.eval x) : K) = aeval (↑x)
 
 end Polynomial
 
+variable (K) in
+lemma RCLike.span_one_I : Submodule.span ℝ (M := K) ({1, I} : Set K) = ⊤ := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/RCLike/Lemmas.lean:23]: Can `M` really not be inferred here?

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 10]
```diff
@@ -916,6 +922,10 @@ noncomputable instance RCLike.toInnerProductSpaceReal : InnerProductSpace ℝ 
     show re (_ * _) = _ * re (_ * _) by
       simp only [mul_re, conj_re, conj_im, conj_trivial, smul_re, smul_im]; ring
 
+example : (innerProductSpace : InnerProductSpace ℝ ℝ) = RCLike.toInnerProductSpaceReal := rfl
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:925]:
```suggestion
-- The instance above does not create diamonds for concrete `𝕜`:
example : (innerProductSpace : InnerProductSpace ℝ ℝ) = RCLike.toInnerProductSpaceReal := rfl
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 11]
```diff
@@ -863,11 +863,17 @@ local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
...
-registered as an instance since `𝕜` does not appear in the return type `InnerProductSpace ℝ E`, but
-it can be used in a proof to obtain a real inner product space structure from a given `𝕜`-inner
+/-- A general inner product space structure implies a real inner product structure.
+
+This is not registered as an instance since
+* `𝕜` does not appear in the return type `InnerProductSpace ℝ E`,
+* It is likely to create instance diamonds, as it builds upon the diamond-prone
+  `NormedSpace.restrictScalars`?
+
+But it can be used in a proof to obtain a real inner product space structure from a given `𝕜`-inner
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:873]:
```suggestion
However, it can be used in a proof to obtain a real inner product space structure from a given `𝕜`-inner
```

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 12]
```diff
@@ -863,11 +863,17 @@ local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
...
 
-/-- A general inner product space structure implies a real inner product structure. This is not
-registered as an instance since `𝕜` does not appear in the return type `InnerProductSpace ℝ E`, but
-it can be used in a proof to obtain a real inner product space structure from a given `𝕜`-inner
+/-- A general inner product space structure implies a real inner product structure.
+
+This is not registered as an instance since
+* `𝕜` does not appear in the return type `InnerProductSpace ℝ E`,
+* It is likely to create instance diamonds, as it builds upon the diamond-prone
+  `NormedSpace.restrictScalars`?
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:871]:
```suggestion
  `NormedSpace.restrictScalars`.
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by YaelDillies** [comment]
bors merge
